US05817693
h) Ethyl(1RS,2RS,3SR)-1-(4-Hydroxyphenyl)-3-(4-methoxyphenyl)indane-2-carboxylate
To a solution of ethyl(1RS,2SR,3SR)-1-(4-t-butyldimethylsiloxyphenyl)-3-(4-methoxyphenyl)indane-2-carboxylate (723 mg, 1.4 mmol) in EtOH (20 ml) was added 1M NaOH (1.6 ml, 1.6 mmol), and the resulting mixture was stirred at room temperature for 30 min. The mixture was then partitioned between 3M HCl and EtOAc. The aqueous phase was extracted with EtOAc, and the combined organic extracts were washed successively with H2O and saturated aqueous NaCi and dried. The solvent was removed in vacuo to afford the title compound (554 mg, 100%).

reactant | ethyl(1RS,2SR,3SR)-1-(4-t-butyldimethylsiloxyphenyl)-3-(4-methoxyphenyl)indane-2-carboxylate | 1.4 mmol, 723 mg | O([Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)C1C(C(C2=CC=CC=C12)C1=CC=C(C=C1)OC)C(=O)OCC | C31H38O4Si
reactant | NaOH | 1.6 mmol, 1M, 1.6 ml | [OH-].[Na+]
solvent | EtOH | 20 ml | CCO | C2H6O
product | Ethyl(1RS,2RS,3SR)-1-(4-Hydroxyphenyl)-3-(4-methoxyphenyl)indane-2-carboxylate | 554 mg, 100% | OC1=CC=C(C=C1)C1C(C(C2=CC=CC=C12)C1=CC=C(C=C1)OC)C(=O)OCC | C25H24O4
